US08685916B2
Synthesis of pyrazin-2-ylmethyl-carbamic acid tert-butyl ester (Compound AA)
To a solution of 2-aminomethyl-pyrazine (5.0 g, 45.87 mmol) in isopropanol (50 ml) was added di-tert-butyl-pyrocarbonate (12.0 g, 55.84 mmol); the mixture was stirred at ambient temperature for 2 h. Next, the solvent was evaporated and the residue was dissolved in DCM (30 ml), and subjected to silica gel purification (chloroform/methanol gradient 0->30% in 100 min.). Fractions containing desired product were combined and evaporated. Residue was dried under vacuum to provide Compound AA in quantitative yield (10.22 g, 99% purity) as amorphous solid. LC-MS: (m/z) observed (M+H+) 210.5 (C10H15N3O2+H calc: 210.3).

reactant | 2-aminomethyl-pyrazine | 45.87 mmol, 5.0 g | NCC1=NC=CN=C1 | C5H7N3
reactant | di-tert-butyl-pyrocarbonate | 55.84 mmol, 12.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | pyrazin-2-ylmethyl-carbamic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(NCC1=NC=CN=C1)=O | C10H15N3O2
